US07091378B2
To methyl 3-phenyl propionate (0.328 g, 2.0 mmol) in THF:MeOH:50% aqueous NH2OH (1:1:0.5, 2.5 mL) was added KCN (5 mg, 0.08 mmol, 4 mol %)) and the mixture was stirred at ambient temperature. After 3 h the reaction was complete by HPLC and saturated aqueous citric acid was added (25 mL) followed by extraction with EtOAc (3×25 mL). The organic phase was isolated, dried (MgSO4), filtered, and the filtrate was concentrated in vacuo to give a residue. The residue was purified by reverse phase HPLC (C-18, 5μ 100×30 mm column), eluting with a gradient of acetonitrile: water (0.05% TFA). Following lyophilization of the product fractions there was obtained pure N-hydroxy-3-phenylpropionamide (IIc) as a fluffy solid (0.220 g, 67% yield): LRMS (M+H)+: 166.0 m/z; 1H NMR (DMSO-d6) δ: 10.31(s, 1H), 8.68(br, 1H), 7.17(m, 5H), 2.79(t, 2H), 2.21(t, 2H); Anal (C,H,N): % C (calc) 65.44, (found) 65.38; % H (calc.) 6.71, (found) 6.61; % N (calc.) 8.48, (found) 8.08.

reactant | MeOH | CO | CH4O
reactant | NH2OH | 2.5 mL | NO | H3NO
reactant | KCN | 0.08 mmol, 5 mg | [C-]#N.[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | THF | C1CCOC1 | C4H8O
product | N-hydroxy-3-phenylpropionamide | 0.220 g, 67% yield | ONC(CCC1=CC=CC=C1)=O | C9H11NO2
